US06392077B1
In the same apparatus and procedure as Example 1 above, 0.44 g (1.50 mmol) of tetrabutylphosphonium chloride, 1.18 g (7.50 mmol) of 1-bromo-3-chloropropane, and 10.16 g (75.0 mmol) of trichlorosilane were reacted at 150° C. for 4 hrs. The resulting mixture was distilled to give 1.21 g of 1,3-bis(trichlorosily)propane (yield; 52%), 0.17 g of 3-(bromopropyl)trichlorosilane (yield; 9%), and 0.16 g of 3-(chloropropyl)trichlorosilane (yield; 10%).

reactant | 1-bromo-3-chloropropane | 7.50 mmol, 1.18 g | BrCCCCl | C3H6BrCl
reactant | trichlorosilane | 75.0 mmol, 10.16 g | Cl[SiH](Cl)Cl | Cl3HSi
catalyst | tetrabutylphosphonium chloride | 1.50 mmol, 0.44 g | [Cl-].C(CCC)[P+](CCCC)(CCCC)CCCC
product | 1,3-bis(trichlorosily)propane | 1.21 g, yield; 52% | Cl[Si](CCC[Si](Cl)(Cl)Cl)(Cl)Cl | C3H6Cl6Si2
